US07906652B2
3-[(S)-(4-chlorophenyl)(3-{(1S)-2-fluoro-1-[3-fluoro-5-(1,3,4-oxadiazol-2-yl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile
A solution of 41 mg (0.081 mmol) of 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide and 1.5 mL triethyl orthoformate in 2 mL of xylene was stirred for 3.5 at 125° C., followed by concentration to remove solvents. The residue was purified by silica gel chromatography with hexane/ethyl acetate/ammonia in MeOH to afford the title compound as a white solid; 1H-NMR(CDCl3) δ 1.23(d, 3H, J=22 Hz), 1.29(d, 3H, J=22 Hz), 2.34 (t, 1H, J=8 Hz), 2.89 (t, 1H, J=8 Hz), 2.98 (m, 1H), 3.02 (t, 1H, J=11 Hz), 3.25 (m, 1H), 3.63 (t, 1H, J =6 Hz), 4.23 (s, 1H), 7.11-7.73 (m, 11H), 8.51(s, 1H); Mass Spectrum: m/e=519 (M+1, 35Cl), 521 (M+1, 37Cl).

reactant | 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzohydrazide | 0.081 mmol, 41 mg | ClC1=CC=C(C=C1)[C@H](N1CC(C1)[C@H](C(C)(C)F)C=1C=C(C(=O)NN)C=C(C1)F)C1=CC(=CC=C1)C#N | C28H27ClF2N4O
reactant | triethyl orthoformate | 1.5 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | xylene | 2 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 3-[(S)-(4-chlorophenyl)(3-{(1S)-2-fluoro-1-[3-fluoro-5-(1,3,4-oxadiazol-2-yl)phenyl]-2-methylpropyl}azetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)[C@H](C(C)(C)F)C1=CC(=CC(=C1)C=1OC=NN1)F | C29H25ClF2N4O
